US08283476B2
Following the general procedure outlined above, a reaction tube was charged with 4.4 mg PdCl2 (5 mol %), 14.5 mg tBu3PHBF4 (10 mol %), 228.1 mg Cs2CO3 (1.4 equiv.) and 2.5 mL DMF. After stirring for 30 min at RT under a flow of argon, 1-chloro-2-phenylethynyl-benzene (106.3 mg, 1.0 equiv.) and phenylhydrazine (75.7 mg, 1.4 equiv.) were added and the reaction was heated to 130° C. for 3 hours. After cooling to RT, the reaction mixture was quenched with brine (30 mL) and extracted with EtOAc (2×30 mL) and the organic phase was dried by eluting through a Varian Chem Elut 12198007 cartridge. Removal of the solvents afforded the crude indazole as a dark-brown oil that purified by FC on silica using CH2Cl2/EtOAc to afford 115.0 mg (81%) of 3-benzyl-2-phenyl-2H-indazole colorless oil that solidified upon standing. 1H-NMR (DMSO-d6) δ 4.47 (s, 2H), 6.98 (d, 2H, J=7.1 Hz), 7.03 (dd, 1H, J=7.9, 7.0 Hz), 7.13-7.24 (m, 3H), 7.30 (dd, 1H, J=8.1, 7.0 Hz), 7.52-7.58 (m, 5H), 7.60 (d, 1H, J=8.6 Hz), 7.65 (d, 1H, J=8.6 Hz); 13C-NMR (DMSO-d6) δ 30.4, 117.1, 120.5, 121.0, 121.2, 125.9 (2C), 126.3, 126.4, 128.1 (2C), 128.4 (2C), 128.9, 129.2 (2C), 134.5, 137.9, 139.5, 147.9; HRMS (FAB): Calculated for C20H17N2 (M+H+) 285.1391, found 285.1385.

reactant | Cs2CO3 | 228.1 mg, 1.4 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-chloro-2-phenylethynyl-benzene | 106.3 mg, 1.0 equiv. | ClC1=C(C=CC=C1)C#CC1=CC=CC=C1 | C14H9Cl
reactant | phenylhydrazine | 75.7 mg, 1.4 equiv. | C1(=CC=CC=C1)NN | C6H8N2
catalyst | PdCl2 | 4.4 mg | Cl[Pd]Cl
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 3-benzyl-2-phenyl-2H-indazole | 115.0 mg, 81% | C(C1=CC=CC=C1)C=1N(N=C2C=CC=CC12)C1=CC=CC=C1 | C20H16N2
